US07338973B2
9-(tert-Butyl-dimethyl-silanyloxy)-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene
Following the procedure described in Example 80, using 6,7-Dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulen-9-ol (350 mg, 1.31 mmol) and TBSCl (225 mg, 1.50 mmol) as the starting material, the title compound was prepared as a white solid.

reactant | 6,7-Dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulen-9-ol | 1.31 mmol, 350 mg | C1=CC=CC2=C1C=1NC3=C(C1CCS2)C=C(C=C3)O | C16H13NOS
reactant | TBSCl | 1.50 mmol, 225 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | 9-(tert-Butyl-dimethyl-silanyloxy)-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene | C(C)(C)(C)[Si](OC=1C=CC2=C(C=3CCSC4=C(C3N2)C=CC=C4)C1)(C)C | C22H27NOSSi
